US05391541
To a flask containing 1100 mL of water was added 97.20 grams (2.43 moles) of sodium hydroxide. When the sodium hydroxide was completely dissolved, 51.34 grams (0.162 mole) of 2,5-dichloro-3-iodobenzoic acid was added, turning the solution black. To this black solution was added 26.29 grams (0.105 mole) of copper(II) sulfate pentahydrate. The reaction mixture was heated to 100° C. and maintained at this temperature for three hours. At the-conclusion of this period, the reaction mixture was cooled in an icewater bath and then acidified with concentrated hydrochloric acid. This mixture was extracted with ethyl acetate, and the extract was washed four times with water and once with a saturated aqueous solution of sodium chloride. The extract was dried over anhydrous sodium sulfate and filtered. The solvent was evaporated from the filtrate under reduced pressure, leaving 21.79 grams of 2,5-dichloro-3-hydroxybenzoic acid as a black solid.

reactant | sodium hydroxide | 2.43 moles, 97.20 grams | [OH-].[Na+]
reactant | 2,5-dichloro-3-iodobenzoic acid | 0.162 mole, 51.34 grams | ClC1=C(C(=O)O)C=C(C=C1I)Cl | C7H3Cl2IO2
reactant | hydrochloric acid | Cl | ClH
catalyst | copper(II) sulfate pentahydrate | 0.105 mole, 26.29 grams | O.O.O.O.O.S(=O)(=O)([O-])[O-].[Cu+2]
solvent | water | 1100 mL | O | H2O
product | 2,5-dichloro-3-hydroxybenzoic acid | 21.79 grams | ClC1=C(C(=O)O)C=C(C=C1O)Cl | C7H4Cl2O3
